US07799797B2
C-(6-Benzenesulfonyl-naphthalen-1-yl)-methylamine is added to dimethylformamide dimethyl acetal, and the reaction mixture is heated to 95° C. The reaction mixture is cooled and quenched by addition of water, and the resulting aqueous mixture is extracted with EtOAc. The organic layer is washed with water, brine, dried (MgSO4), and evaporated under reduced pressure to give N′-(6-Benzenesulfonyl-naphthalen-1-ylmethyl)-N,N-dimethyl-formamidine.

reactant | C-(6-Benzenesulfonyl-naphthalen-1-yl)-methylamine | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2C=CC=C(C2=CC1)CN | C17H15NO2S
reactant | dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
product | N′-(6-Benzenesulfonyl-naphthalen-1-ylmethyl)-N,N-dimethyl-formamidine | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2C=CC=C(C2=CC1)CN=CN(C)C | C20H20N2O2S
